US05712267
121(1) 4-Nitrobenzyl (1R,5S,6S)-2-((2S,4S)-2-[3-(4-nitrobenzyloxycarbonylamino)azetidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
167 μl of diphenylphosphoric acid chloride and 140 μl of ditsopropylethylamine were added dropwise at the same time, whilst ice-cooling, to a solution of 278 mg of 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 4 ml of dry acetonitrile, and the resulting mixture was stirred at the same temperature for 1 hour. At the end of this time, a solution of 430 mg of (2S,4S)-4-mercapto-2-[3-(4-nitrobenzyloxycarbonylamino)azetidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (prepared as described in Preparation 113) in 4 ml of dry acetonitrile and 134 μl of ditsopropylethylamine were added dropwise at the same time to the mixture, whilst ice-cooling. The resulting mixture was then stirred at the same temperature for 2 hours, after which it was left to stand overnight whilst ice-cooling. The reaction mixture was then diluted with ethyl acetate and washed with water and with an aqueous solution of sodium chloride. The ethyl acetate layer was dehydrated over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the fractions obtained by elution with a 98:2 by volume mixture of ethyl acetate and methanol were combined and concentrated by evaporation under reduced pressure, to give 224 mg of the title compound, as a powder.

reactant | diphenylphosphoric acid chloride | 167 μl | C1(=CC=CC=C1)[ClH]P(=O)(Cl)[ClH]C1=CC=CC=C1 | C12H12Cl3OP
reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 278 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | (2S,4S)-4-mercapto-2-[3-(4-nitrobenzyloxycarbonylamino)azetidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 430 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CC(C1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H25N5O9S
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Nitrobenzyl (1R,5S,6S)-2-((2S,4S)-2-[3-(4-nitrobenzyloxycarbonylamino)azetidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 224 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NC2CN(C2)C(=O)[C@H]2N(C[C@H](C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C=C1 | C41H41N7O15S
